* source GATE_CHARGE
X_M1         N16040 N16044 0 NAMS20
C_C1         N16193 N16044  10u  TC=0,0 
R_R2         N16040 12V  10 TC=0,0 
V_V3         N16193 0  
+PULSE 5 0 500n 1n 1n 1u 2u
V_V4         12V 0 12Vdc
R_R4         0 N16044  100M TC=0,0 
